US07759373B2
A mixture of 2-(4-fluorophenyl)-5-(3-thienyl)oxazol-4-yl acetic acid (100 mg), methoxyamine hydrochloride (37.6 mg), 3-ethyl-1-(3-dimethylaminopropyl)carbodiimide hydrochloride (95 mg), 1-hydroxybenzotriazole (67 mg) and triethylamine (0.14 ml) in N,N-dimethylformamide (3 ml) was stirred at room temperature overnight. Water was added to the reaction mixture, the mixture was extracted with chloroform. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: chloroform:methanol=20:1), and triturated with diethyl ether-hexane to obtain N-methoxy-[2-(4-fluorophenyl)-5-(3-thienyl)oxazol-4-yl]acetamide (75 mg) as colorless powder.

reactant | 2-(4-fluorophenyl)-5-(3-thienyl)oxazol-4-yl acetic acid | 100 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H10FNO3S
reactant | methoxyamine hydrochloride | 37.6 mg | Cl.CON
reactant | 3-ethyl-1-(3-dimethylaminopropyl)carbodiimide hydrochloride | 95 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 67 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | N-methoxy-[2-(4-fluorophenyl)-5-(3-thienyl)oxazol-4-yl]acetamide | 75 mg | CONC(CC=1N=C(OC1C1=CSC=C1)C1=CC=C(C=C1)F)=O | C16H13FN2O3S
